Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Rifabutin
 
Attending: ___.
 
Chief Complaint:
Right foot rest pain
 
Major Surgical or Invasive Procedure:
Diagnostic right lower extremity angiogram 

 
History of Present Illness:
Ms. ___ is an ___ female who is known to our service 
for her peripheral vascular disease as well as her abdominal 
aortic aneurysm.  She was last seen here in ___, at which 
time her abdominal aortic aneurysm was 2.7 cm and we decided to 
no longer follow this.  She is also seen today for her 
peripheral vascular disease.  When she was seen back in ___, we 
were unclear at that time whether her symptoms were of 
neuropathy versus an atypical rest pain.  Her ultrasound studies 
at that time were not significant enough to warrant 
interventional studies.  She presents today with a change in her 
pain pattern, over the last week, she has had a new right lower 
extremity pain where her foot is at rest pain and her toes go
numb.  She also admits that her heel still feel painful.  If she 
dangles from over the side of the bed, they feel somewhat 
improved.  They are also tender to touch. 
 
Past Medical History:
1)MAC infection, followed by Dr. ___, on ethambutol, 
rifabutin, clarithromycin. (ethambutol uveitis)  
2) Presyncopal episodes in ___, cardiac workup unrevealing  
2) Rheumatoid Arthritis  
3) Bronchiectasis  
4) Hypothyroidism  
5) Urge incontinence  
6) s/p mechanical fall in ___  

 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
Gen: NAD
HEENT: anicteric, NCAT, no neck masses
CV: RRR
Pulm: no respiratory distress
Abd: S/NT/ND
Ext: Dependent rubor, no ulcers
Pulses R D/D L D/D
TLD: none 
 
Brief Hospital Course:
___ was admitted to ___ for a diagnostic right lower 
extremity angiogram on ___. For more information, see 
operative report. She was taken from the angio suite to the PACU 
in stable condition. On post operative check the groin appeared 
clean, dry, and intact, without hematoma. She was then moved to 
the surgical floor. She was discharged home on POD1 with 
instructions to follow up in ___ weeks with vein mapping of her 
bilateral lower extremities. All of her questions were answered 
to her satisfaction. 
 
Medications on Admission:
Aspirin 81 mg PO DAILY 
Atorvastatin 40 mg PO QPM 
Cilostazol 50 mg PO BID 
FoLIC Acid 1 mg PO DAILY 
Levothyroxine Sodium 150 mcg PO DAILY 
Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID 
Lisinopril 5 mg PO DAILY 
PredniSONE 5 mg PO DAILY 
Ranitidine 150 mg PO DAILY 
Azithromycin 250 mg PO Q24H 
Fluticasone Propionate NASAL 1 SPRY NU DAILY 
Ethambutol HCl 900 mg PO DAILY 
Rifampin 600 mg PO Q24H 

 
Discharge Medications:
1. Acetaminophen 650 mg PO TID 
RX *acetaminophen 650 mg 1 tablet(s) by mouth every 6 hours Disp 
#*120 Tablet Refills:*0
2. Aspirin 81 mg PO DAILY 
3. Atorvastatin 40 mg PO QPM 
4. Cilostazol 50 mg PO BID 
5. FoLIC Acid 1 mg PO DAILY 
6. Levothyroxine Sodium 150 mcg PO DAILY 
7. Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID 
8. Lisinopril 5 mg PO DAILY 
9. OxycoDONE (Immediate Release)  2.5 mg PO Q4H:PRN pain 
RX *oxycodone 5 mg ___ tablet(s) by mouth every 4 hours Disp 
#*30 Tablet Refills:*0
10. PredniSONE 5 mg PO DAILY 
11. Ranitidine 150 mg PO DAILY 
12. Azithromycin 250 mg PO Q24H 
13. Fluticasone Propionate NASAL 1 SPRY NU DAILY 
14. Ethambutol HCl 900 mg PO DAILY 
15. Rifampin 600 mg PO Q24H 
16. Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 tablet(s) by mouth twice daily Disp 
#*60 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Right foot rest pain

 
Discharge Condition:
Awake and interactive, clear and coherent, ambulatory and 
independent. 

 
Discharge Instructions:
It was a pleasure taking care of you at ___ 
___.  You were admitted to the hospital after a 
peripheral angiogram.   To do the test, a small puncture was 
made in one of your arteries.  The puncture site heals on its 
own: there are no stitches to remove.   You tolerated the 
procedure well and are now ready to be discharged from the 
hospital.   Please follow the recommendations below to ensure a 
speedy and uneventful recovery.
Peripheral Angiography
Puncture Site Care
For one week:
•Do not take a tub bath, go swimming or use a Jacuzzi or hot 
tub.
•Use only mild soap and water to gently clean the area around 
the puncture site. 
•Gently pat the puncture site dry after showering. 
•Do not use powders, lotions, or ointments in the area of the 
puncture site. 

You may remove the bandage and shower the day after the 
procedure.  You may leave the bandage off. 
You may have a small bruise around the puncture site.  This is 
normal and will go away one-two weeks. 
Activity 
For the first 48 hours: 
•Do not drive for 48 hours after the procedure
For the first week:
•Do not lift, push , pull or carry anything heavier than 10 
pounds
•Do not do any exercises or activity that causes you to hold 
your breath or bear down with abdominal muscles.   Take care not 
to put strain on your abdominal muscles when coughing, sneezing, 
or moving your bowels.
After one week:
•You may go back to all your regular activities, including 
sexual activity.  We suggest you begin your exercise program at 
half of your usual routine for the first few days.   You may 
then gradually work back to your full routine.
Medications:
Before you leave the hospital, you will be given a list of all 
the medicine you should take at home.  If a medication that you 
normally take is not on the list or a medication that you do not 
take is on the list please discuss it with the team!  
 
Followup Instructions:
___